US09029371B2
To a solution of oxalyl chloride (0.46 mL, 5.4 mmol) in CH2Cl2 (20 mL), was added dropwise DMSO (0.94 mL, 13.2 mmol), at −78° C. Subsequently, a solution of [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dimethyl-phenyl)-methanol (1.6 g, 4.1 mmol) in CH2Cl2 (30 mL) was added, dropwise, at −78° C. After the addition was complete the mixture was stirred for 30 min., at −78° C., and then Et3N (2.9 mL, 20.8 mmol) was added. After complete addition the mixture was allowed to warm to room temperature, overnight. Next, a 2M aqueous NH4OH solution (30 mL) was added, and the mixture extracted with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo to afford [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dimethyl-phenyl)-methanone (1.5 g), which was used as such in the next step.

reactant | oxalyl chloride | 5.4 mmol, 0.46 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 13.2 mmol, 0.94 mL | CS(=O)C | C2H6OS
reactant | [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dimethyl-phenyl)-methanol | 4.1 mmol, 1.6 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)C(O)C1=C(C=CC=C1C)C | C26H29NO2
reactant | Et3N | 20.8 mmol, 2.9 mL | CCN(CC)CC | C6H15N
reactant | NH4OH | 2M, 30 mL | [NH4+].[OH-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | [4-(4-benzyl-morpholin-2-yl)-phenyl]-(2,6-dimethyl-phenyl)-methanone | 1.5 g | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC=C(C=C1)C(=O)C1=C(C=CC=C1C)C | C26H27NO2
